US08809376B2
{(S)-6-[(R)-4-Bromomethyl-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
Methylsulfonyl bromide (0.96 mL) is added to a solution of {(S)-6-[(R)-4-hydroxymethyl-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester (2.00 g) and triethylamine (1.98 mL) in dichloromethane (20 mL) chilled in an ice bath. The cooling bath is removed, and the solution is stirred at room temperature overnight. More dichloromethane is added, and the resulting solution is washed with aqueous NaHCO3 solution and brine, dried (Na2SO4), and concentrated. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate) to give the title compound. LC (method 2): tR=1.24 min.

reactant | Methylsulfonyl bromide | 0.96 mL | CS(=O)(=O)Br | CH3BrO2S
reactant | {(S)-6-[(R)-4-hydroxymethyl-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | 2.00 g | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)CO)=O | C22H21F3O5
reactant | triethylamine | 1.98 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | {(S)-6-[(R)-4-Bromomethyl-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)CBr)=O | C22H20BrF3O4
